US07855297B2
By the reaction and treatment in the same manner as in Example 83 using N-(4-isopropylphenyl)-7-methoxy-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.44 g) and propyl iodide (0.01 mL) as starting materials, N-(4-isopropylphenyl)-N-[(1-propylpyrazol-4-yl)methyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.31 g) was obtained.

reactant | N-(4-isopropylphenyl)-7-methoxy-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.44 g | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=C(C=C12)OC)CC=1C=NNC1 | C25H29N3O2
reactant | propyl iodide | 0.01 mL | C(CC)I | C3H7I
product | N-(4-isopropylphenyl)-N-[(1-propylpyrazol-4-yl)methyl]-7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.31 g | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=C(C=C12)OC)CC=1C=NN(C1)CCC | C28H35N3O2
